US04352752
According to the same procedure as in Example 1, Diastereomer A (700 mg.) of 1-(1-methoxycarbonylethyl)-3-benzyloxy-4-phenylazetidin-2-one, which had been obtained in Example 5, was subjected to hydrogenolysis at room temperature in ethanol (40 ml.) under a hydrogen pressure of one atmosphere in the presence of a 10% Pd-C (220 mg.). The reaction was completed in 12 hours. The same after-treatment as in Example 1 was followed to give methyl ester of α-hydroxy-β-phenylpropionylalanine (468 mg., yield: 90.5%), which was an oil.

reactant | 1-(1-methoxycarbonylethyl)-3-benzyloxy-4-phenylazetidin-2-one | 700 mg | COC(=O)C(C)N1C(C(C1C1=CC=CC=C1)OCC1=CC=CC=C1)=O | C20H21NO4
reactant | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Pd-C | 220 mg | [Pd] | Pd
product | α-hydroxy-β-phenylpropionylalanine | 468 mg, yield: 90.5% | O[C@](NC(CCC1=CC=CC=C1)=O)(C)C(=O)O | C12H15NO4
